US06583135B2
tert-Butyl 7-bromo-6-{2-[(4-methyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.280 g, 0.52 mmol) was dissolved in EtOAc (15 mL). 4N HCl in dioxane (5 mL) was added and the reaction mixture was stirred at rt under N2. After 1 h, a white solid precipitated from the solution. The precipitate was collected by filtration. Pure 2-(7-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-N-(4-methyl-1,3-thiazol-2-yl)acetamide hydrochloride was obtained after recrystallization from 3:1 CH3OH:Et2O (20 mL), as a white solid (0.220 g) in 94% yield. 1H NMR (400 MHz, CD3OD) δ 2.4, 3.22-3.28, 3.49-3.59, 5.7-5.78, 6.88, 7.02, 7.35, 7.54; MS (ESI+) for C18H19BrN4OS m/z 420.8 (M+H)+.

reactant | tert-Butyl 7-bromo-6-{2-[(4-methyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.52 mmol, 0.280 g | BrC1=CC=CC=2C3=C(N(C12)CC(=O)NC=1SC=C(N1)C)CCN(CC3)C(=O)OC(C)(C)C | C23H27BrN4O3S
reactant | HCl | 4N | Cl | ClH
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(7-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-N-(4-methyl-1,3-thiazol-2-yl)acetamide hydrochloride | 94% yield | Cl.BrC1=CC=CC=2C3=C(N(C12)CC(=O)NC=1SC=C(N1)C)CCNCC3 | InChI=1S/C18H19BrN4OS.ClH/c1-11-10-25-18(21-11)22-16(24)9-23-15-6-8-20-7-5-12(15)13-3-2-4-14(19)17(13)23;/h2-4,10,20H,5-9H2,1H3,(H,21,22,24);1H
